US20010008903A1
A round bottomed flask containing a mixture of 5-hydroxy-1H-indazole (28.5 g) and ethyl N-phenylformimidate (35 g) was submerged rapidly in an oil bath pre-heated to 175° C. and the mixture stirred at 160-180° C. for 30 minutes, the ethanol produced in the reaction being removed by distillation. The cooled mixture was then treated with boiling methanol (500 ml) and the resultant brown solid collected by filtration, washed with methanol (100 ml) and dried to give 5-hydroxy-4-(N-phenyliminomethyl)-1H-indazole (32 g) as a yellow solid. The solid was dissolved in hydrochloric acid (5 M; 500 ml) and heated at 50-60°C. with stirring for 2 hours. The mixture was diluted with water (500 ml) and extracted with ethyl acetate (2×500 ml). The combined extracts were washed with water (500 ml), dried over magnesium sulphate and the solvent evaporated under reduced pressure to give 5-hydroxy-1H-indazole-4-carboxaldehyde (15.48 g) as a yellow solid.

reactant | 5-hydroxy-1H-indazole | 28.5 g | OC=1C=C2C=NNC2=CC1 | C7H6N2O
reactant | ethyl N-phenylformimidate | 35 g | C1(=CC=CC=C1)N=COCC | C9H11NO
solvent | ethanol | C(C)O | C2H6O
product | 5-hydroxy-4-(N-phenyliminomethyl)-1H-indazole | 32 g | OC=1C(=C2C=NNC2=CC1)C=NC1=CC=CC=C1 | C14H11N3O
